US07094865B2
Chiral 2-n-octyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine was synthesized by transetherification of 3,4-dimethoxythiophene with (S)-1,2-decanediol and purified to a purity of 99.24% as described in INVENTION EXAMPLE 1. It was characterized by GC-MS and 1H-NMR-spectroscopy, and exhibited a specific rotation of −88° at 25° C. and 436 nm in hexane.

reactant | 3,4-dimethoxythiophene | COC1=CSC=C1OC | C6H8O2S
reactant | (S)-1,2-decanediol | C([C@H](CCCCCCCC)O)O | C10H22O2
product | 2-n-octyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine | C(CCCCCCC)C1COC=2C(O1)=CSC2 | C14H22O2S
